US06482824B1
A suspension of 4-methoxybenzaldehyde (10 g, 0.073 mol) and α-formylethylidenetriphenylphosphorane (25.7 g, 0.081 mol) in dried toluene (200 ml)was heated with stirring at reflux under an atmosphere of nitrogen for 24 h. The cooled reaction mixture was decanted to removed insoluble material and evaporated to give a brown oil. The oil was taken up in diethylether and the resulting suspension purified on flash silica eluting with hexane-diethyl ether (3:2). The resulting oil was a mixture of required product and 4-methoxybenzaldehyde and therefore dissolved in dried toluene (150 ml) and reaction continued as described above with α-formylethylidenetriphenylphosphorane (5.76 g, 0.018 ml) for 7 h. Following the work up and chromatography as above 3-(4-methoxyphenyl)-2-methylpropenaldehyde was obtained as a yellow oil.

reactant | 4-methoxybenzaldehyde | 0.073 mol, 10 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | α-formylethylidenetriphenylphosphorane | 0.081 mol, 25.7 g | C(=O)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | α-formylethylidenetriphenylphosphorane | 0.018 ml, 5.76 g | C(=O)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | C(C)OCC | C4H10O
product | 3-(4-methoxyphenyl)-2-methylpropenaldehyde | COC1=CC=C(C=C1)C=C(C=O)C | C11H12O2
